2138-10-16 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Altered mental status
   24 Hour Events:
   None
   Allergies:
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-15**] 08:38 PM
   Vancomycin - [**2138-10-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-16**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 84 (69 - 100) bpm
   BP: 118/36(55) {84/33(55) - 134/77(110)} mmHg
   RR: 19 (12 - 22) insp/min
   SpO2: 95%
             Total In:
                                                                  4,059 mL
                                                                    430 mL
   PO:
                                                                    100 mL
                                                                    160 mL
   TF:
   IVF:
                                                                    959 mL
                                                                    270 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    520 mL
   Urine:
                                                                  1,500 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,559 mL
                                                                    -90 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   306 K/uL
   11.1 g/dL
   144 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   33.4 %
   6.6 K/uL
        [image002.jpg]
                            [**2138-10-16**]  05:00 AM
   WBC
   6.6
   Hct
   33.4
   Plt
   306
   Cr
   0.4
   Glucose
   144
   Other labs: ALT / AST:39/34, Alk Phos / T Bili:116/0.3, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Fluid analysis / Other labs: UA: >50 WBC, many bact, [**2-6**] Epi's
   Imaging: PA and lat CXR: subtle silhouetting of the
   right hemidiaphragm which may correspond to increased opacity noted on
   the lateral view. Atelectasis or an early infiltrate involving the
   right lower
   lobe cannot be entirely excluded.
   Microbiology: blood cx: pending
   urine cx: pending
   Assessment and Plan
 HYPOTENSION (NOT SHOCK)
   73F with paraplegia, COPD, recurrent UTI, presenting with UTI,
   confusion, mild hypoxia and relative hypotension.
   .
   # Hypotension.  Mild but past notes support general baseline in the
   100s-110s.  Initial response to 3L NS but then dropped again. Had some
   low BPs upon arrival to unit, with subsequent stabilization in her
   baseline range.  Differential includes volume depletion, sepsis,
   cardiogenic etiology.  Currently appears euvolemic.
   - Follow lactates.
   - Add on CEs, follow ECGs.
   - Follow UOP.
   - Treatment of UTI and other infectious workup as detailed below.
   - Consider Aline if still low.
   - If drops again, would try another 0.5-1L; if still low this would
   represent adequate fluid resuscitation and would favor CVL and
   pressors.
   .
   # Hypoxia.  Carries COPD diagnosis and intermittently sent home from
   the hospital with O2, though not currently O2 dependent.  Some rhonchi
   on exam.  Differential includes bronchospasm/COPD flare, heart failure
   (no evidence on exam, but received a fair amount of fluid), PE (less
   likely as chest pain free; is immobile but relatively far out from
   paraplegia onset), hypoventilation from meds or altered mental status.
   No evidence of pneumonia.  Now satting very well on 4L, can likely
   titrate down.
   - Nebs ATC and prn.  Hold on prednisone for now.
   - Check BNP; consider diuresis and TTE.
   - Repeat CXR in AM.
   - Consider PECT if continues to be hypoxic, though other etiologies
   more likely.
   - Consider ABG.
   - ECG and CEs.
   - Consider Aline.
   .
   # Fever.  To 102 as above.  No sick contacts.  Known UTI.  Also
   consider sacral decub as source, though appears to be improving.
   - Flu swab for r/o flu given fever plus cough and sore throat.
   - Treat UTI.
   - F/u blood and urine cultures.
   - C.diff if diarrhea.
   - Check LFTs.
   - consider further imaging of decub/pelvis.
   .
   # UTI.  Has had a number of FQ and 2nd-3rd genereation cephalosporin
   resistent organisms in the past.  Also history of enterococcus in the
   past.  She is unsure of when her last UTI was.  On Bactrim as
   prophylaxis.
   - Zosyn and vanco for now given hypotension and general severity of
   illness; will continue FQ for now as well until culture results
   available.
   - Would broaden to cover VRE and ESBL orgs (though no history of
   either) given recurrent UTI history and exposure to rehab setting
   recently.
   - ?need suprapubic catheter.
   .
   # Confusion.  Quite clear currently.  Seems to be global deficit; exam
   nonfocal compared to baseline given paraplegia - makes effect of
   systemic illness more likely.
   - Treatment of UTI as above.
   - Consider head CT.
   - Consider hold mood altering meds.
   .
   # Sacral decub.  Stage IV, though reportedly is improved from prior.
   Does not seem overtly infection, though consider as source of sepsis as
   above.
   - wound care consult.
   - covering with vanc/zosyn/cipro for now.
   - consider MRI or other imaging.
   .
   # Abdominal distension.  Patient reports no change from baseline.  No
   BMs x few days.
   - Continue miralax daily with senna/colace, bisacodyl prn.
   .
   # Paraplegia.
   - Continue home meds (tizanidine, baclofen, gabapentin, nortriptyline).
   .
   FEN: replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  DNR/[**Name6 (MD) 329**] [**Name8 (MD) **] NP
   Communication: Patient, [**Telephone/Fax (1) 6840**] son [**Name (NI) 3227**]
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-10-15**] 04:48 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2138-10-16 12:14:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Allergies:
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-15**] 08:38 PM
   Vancomycin - [**2138-10-16**] 12:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2138-10-16**] 08:31 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2138-10-16**] 12:12 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 85 (69 - 100) bpm
   BP: 108/35(53) {84/32(51) - 134/77(110)} mmHg
   RR: 15 (12 - 22) insp/min
   SpO2: 94%
             Total In:
                                                                  4,059 mL
                                                                    680 mL
   PO:
                                                                    100 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    959 mL
                                                                    320 mL
   Blood products:
   Total out:
                                                                  1,500 mL
                                                                    820 mL
   Urine:
                                                                  1,500 mL
                                                                    820 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,559 mL
                                                                   -140 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout)
   Abdominal: Soft, Non-tender, Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   11.1 g/dL
   306 K/uL
   144 mg/dL
   0.4 mg/dL
   25 mEq/L
   3.3 mEq/L
   7 mg/dL
   107 mEq/L
   140 mEq/L
   33.4 %
   6.6 K/uL
        [image002.jpg]
                            [**2138-10-16**]  05:00 AM
   WBC
   6.6
   Hct
   33.4
   Plt
   306
   Cr
   0.4
   Glucose
   144
   Other labs: ALT / AST:39/34, Alk Phos / T Bili:116/0.3, Ca++:7.4 mg/dL,
   Mg++:2.1 mg/dL, PO4:2.5 mg/dL
   Imaging: CXR: bilateral patchy infiltrates compared to yesterday
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
   Assessment and Plan
   Assessment and Plan:
   73F with paraplegia, COPD, recurrent UTI, presenting with UTI,
   confusion, mild hypoxia and relative hypotension.
   .
   # Hypotension.  Now resolved after fluid challenge overnight
   # UTI: Will change abx course to vanc/zosyn/cipro until cxs back given
   previous hisotry of infections
   # Hypoxia: Does appear to have some mild volume overload post-fluid
   resusitation
   # Delerium: improved
   # Sacral decub.  Stage IV, though reportedly is improved from prior.
   Does not seem overtly infection, though consider as source of sepsis as
   above.
   - wound care consult.
   - covering with vanc/zosyn/cipro for now.
   - consider MRI or other imaging.
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2138-10-15**] 04:48 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR / DNI
   Disposition :Transfer to floor
   Total time spent:
   Patient is critically ill

2138-10-17 07:36:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - could not go to floor because of hypotension during the day, then at
   night was called out but no bed available
   - cortisol level measured- f/u in am
   Allergies:
   Adhesive Tape (Topical)
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2138-10-15**] 08:38 PM
   Piperacillin - [**2138-10-16**] 10:03 PM
   Vancomycin - [**2138-10-17**] 03:53 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2138-10-16**] 01:03 PM
   Heparin Sodium (Prophylaxis) - [**2138-10-16**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2138-10-17**] 07:36 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37
C (98.6
   HR: 72 (69 - 87) bpm
   BP: 94/41(53) {79/27(42) - 121/78(83)} mmHg
   RR: 17 (15 - 23) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  2,360 mL
                                                                    634 mL
   PO:
                                                                  1,020 mL
                                                                    360 mL
   TF:
   IVF:
                                                                  1,340 mL
                                                                    274 mL
   Blood products:
   Total out:
                                                                  2,690 mL
                                                                    505 mL
   Urine:
                                                                  2,690 mL
                                                                    505 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -330 mL
                                                Is 2L positive through LOS
                                                                    129 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///29/
   Physical Examination
   General Appearance: Awake, alert, answering questions, no distress, no
   complaints
   Cardiovascular: Very faint and difficult to auscultate with lung sounds
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: Gross expiratory rhonchi in all lung fields
   Abdominal: Obese, soft, NT ND
   Extremities: No sensation or movement of BLE's, no edema
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   354 K/uL
   10.9 g/dL
   156 mg/dL
   0.5 mg/dL
   29 mEq/L
   4.1 mEq/L
   5 mg/dL
   104 mEq/L
   140 mEq/L
   31.9 %
   7.8 K/uL
        [image002.jpg]
                            [**2138-10-16**]  05:00 AM
                            [**2138-10-16**]  04:10 PM
                            [**2138-10-17**]  03:34 AM
   WBC
   6.6
   7.8
   Hct
   33.4
   31.9
   Plt
   306
   354
   Cr
   0.4
   0.4
   0.5
   Glucose
   144
   165
   156
   Other labs: ALT / AST:39/34, Alk Phos / T Bili:116/0.3, Ca++:8.0 mg/dL,
   Mg++:2.3 mg/dL, PO4:2.2 mg/dL
   Fluid analysis / Other labs: cortisol 4.5 at 410pm yesterday
   Imaging: [**10-16**] CXR
   FINDINGS: As compared to the previous radiograph, there is no relevant
   change. Marked tortuosity of the contour of the descending aorta.
   Interval appearance of retrocardiac atelectasis. On today's
   examination, there is blunting of the left costophrenic sinus, so that
   a minimal left pleural effusion cannot be excluded. The size of the
   cardiac silhouette is unchanged. No newly appeared focal parenchymal
   opacity suggesting pneumonia. Unchanged
   appearance of the left-sided rib defects.
   appears improved vs
   Microbiology: [**10-15**] UCx with mixed morphologies, fecal contamination
   2 BCx's negative to date
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOTENSION (NOT SHOCK)
   73F with paraplegia, COPD, recurrent UTI, presenting with UTI,
   confusion, mild hypoxia and relative hypotension.
   .
   # UTI.  Has had a number of FQ and 2nd-3rd genereation cephalosporin
   resistent organisms in the past.  Also history of enterococcus in the
   past.  She is unsure of when her last UTI was.  On Bactrim as
   prophylaxis.
   - Stopped Bactrim on admission
   - Started on Vanc/Zosyn/Cipro on [**10-15**] = day 1, today is day 3
   - Afebrile since admission
   - Has low bp's at baseline
   - Needs repeat UCx today as last one contaminated
   # Hypoxia.  Not currently O2 dependent at home but has been in the past
   for COPD.  Was volume up on admission and received Lasix and got some
   yesterday. Doesn't appear too volume up currently, not tachypneic and
   satting well on NC
   - continue nebs.
   # Hypotension.  Resolved this morning, UOP remained good and patient
   appears grossly euvolemic. Has baseline low bp's in the 100's.
   # Fever.  Known UTI.  Also consider sacral decub as source, though
   appears to be improving.  LFTs were normal. Has been afebrile since
   admission.
   - f/u flu given fever plus cough and sore throat.  Now afebrile.
   - Treat UTI as above
   - F/u blood and urine cultures.
   - C.diff if diarrhea.
   - consider further imaging of decub/pelvis.
   # Sacral decub.  Stage IV, though reportedly is improved from prior.
   Does not seem overtly infection, though consider as source of sepsis as
   above.
   - wound care consult pending
   - covering with vanc/zosyn/cipro for now.
   - consider MRI or other imaging.
   # Abdominal distension.  Not tender to palpation and normal on PE
   - Continue miralax daily with senna/colace, bisacodyl prn.
   # Paraplegia.
   - Continue home meds (tizanidine, baclofen, gabapentin, nortriptyline).
   FEN: replete electrolytes, regular diet
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  DNR/[**Name6 (MD) 329**] [**Name8 (MD) **] NP
   Communication: Patient, [**Telephone/Fax (1) 6840**] son [**Name (NI) 3227**]
   Disposition: to floor today
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2138-10-16**] 01:07 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: